US07169333B2
Perfluorobutanesulfonic acid tetramethylammonium salt is prepared by neutralising perfluorobutanesulfonic acid and tetramethylammonium hydroxide in aqueous solution. Tetramethylammonium hydroxide is obtainable from Aldrich.

reactant | perfluorobutanesulfonic acid | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)O)F | C4HF9O3S
reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
product | Perfluorobutanesulfonic acid tetramethylammonium salt | C[N+](C)(C)C.FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F | InChI=1S/C4HF9O3S.C4H12N/c5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16;1-5(2,3)4/h(H,14,15,16);1-4H3/q;+1/p-1
